US09382218B2
N*3*-(3,5-Dichloro-phenyl)-[1,2,4]oxadiazole-3,5-diamine (Compound 6)
In a 5 mL microwave vial, (Z)-methyl N′-cyano-N-(3,5-dichlorophenyl)carbamimidothioate (156 mg, 0.6 mmol, Eq: 1.00), hydroxylamine hydrochloride (347 mg, 5 mmol, Eq: 8.33) and triethylamine (506 mg, 697 μl, 5 mmol, Eq: 8.33) were combined with DMF (6 ml) to give a white suspension. The vial capped and stirred in a 50° C. oil bath for 3.5 hours. The reaction was concentrated in vacuo and the crude material was purified by preparative TLC (silica gel, 1.0 mm, 9:1 DCM/MeOH) to give product, was recrystallized from EtOH then dried in vacuo (80° C., 2 torr, overnight) to give 15 mg (10%) of desired product as a white solid.

reactant | (Z)-methyl N′-cyano-N-(3,5-dichlorophenyl)carbamimidothioate | 0.6 mmol, 156 mg | C(#N)\N=C(\NC1=CC(=CC(=C1)Cl)Cl)/SC | C9H7Cl2N3S
reactant | hydroxylamine hydrochloride | 5 mmol, 347 mg | Cl.NO
reactant | triethylamine | 5 mmol, 697 μl, 506 mg | C(C)N(CC)CC | C6H15N
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
product | N*3*-(3,5-Dichloro-phenyl)-[1,2,4]oxadiazole-3,5-diamine | 15 mg, 10% | ClC=1C=C(C=C(C1)Cl)NC1=NOC(=N1)N | C8H6Cl2N4O
